US06130232
(2) Synthesis of N-[1-(6-amino-2-pyridylmethyl)piperidin-4-yl]-2-cyclopentyl-2-hydroxy-2-phenylacetamide dihydrochloride
To a solution of 40 mg of N-[1-(6-ethoxycarbonyl-2-pyridylmethyl)piperidin-4-yl]-2-cyclopentyl-2-hydroxy-2-phenylacetamide in 1 ml of methanol, 0.5 ml of 1N sodium hydroxide solution was added at room temperature, followed by 15 hours' stirring at the same temperature. The reaction mixture was made weakly acidic with 1N hydrochloric acid and concentrated under reduced pressure. The residue was dissolved in ethanol, and the insoluble matter was removed by filtration. The filtrate was concentrated under reduced pressure. The residue was purified by reverse phase ODS column chromatography (acetonitrile/water=2/1) to provide 27 mg of an oily substance. The product was dissolved in 1 ml of t-butanol. After addition of 20 mg of diphenylphosphoryl azide and 27 μl of triethylamine, the solution was refluxed for 18 hours. The solvent was distilled off, and the residue was purified by preparative thin layer chromatography [Kieselgel™ 60F254, Art 5744 (Merck), chloroform/methanol=10/1] to give 14 mg of an oily substance. The product was dissolved in 0.5 ml of methanol, and to which 4N hydrogen chloride/dioxane was added at room temperature, followed by an overnight stirring. The reaction mixture was solidified by drying under reduced pressure to give 13 mg of the title compound as a white solid.

reactant | N-[1-(6-ethoxycarbonyl-2-pyridylmethyl)piperidin-4-yl]-2-cyclopentyl-2-hydroxy-2-phenylacetamide | 40 mg | C(C)OC(=O)C1=CC=CC(=N1)CN1CCC(CC1)NC(C(C1=CC=CC=C1)(O)C1CCCC1)=O | C27H35N3O4
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | diphenylphosphoryl azide | 20 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | hydrogen chloride dioxane | 4N | Cl.O1CCOCC1
solvent | methanol | 1 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 0.5 ml | [OH-].[Na+]
solvent | t-butanol | 1 ml | C(C)(C)(C)O | C4H10O
solvent | methanol | 0.5 ml | CO | CH4O
solvent | triethylamine | 27 μl | C(C)N(CC)CC | C6H15N
product | N-[1-(6-amino-2-pyridylmethyl)piperidin-4-yl]-2-cyclopentyl-2-hydroxy-2-phenylacetamide dihydrochloride | 13 mg | Cl.Cl.NC1=CC=CC(=N1)CN1CCC(CC1)NC(C(C1=CC=CC=C1)(O)C1CCCC1)=O | InChI=1S/C24H32N4O2.2ClH/c25-22-12-6-11-21(26-22)17-28-15-13-20(14-16-28)27-23(29)24(30,19-9-4-5-10-19)18-7-2-1-3-8-18;;/h1-3,6-8,11-12,19-20,30H,4-5,9-10,13-17H2,(H2,25,26)(H,27,29);2*1H
